US05849735
10-([1,1'-Biphenyl]-4-ylcarbonyl)-10,11-dihydrodibenz[b,f][1,4]oxazepine
To a cooled (0° C.) solution of 1.0 g of 10,11-dihydrodibenz[b,f][1,4]oxazepine and 7 ml of triethylamine in 30 ml of CH2Cl2 under argon is added dropwise 2.0 g of [1,1'-biphenyl]-4-carbonyl chloride. The mixture is stirred at room temperature for 16 hours and diluted with 50 ml of CHCl3. The mixture is washed with 30 ml each of H2O, 2NHCl, H2O, saturated NaHCO3, H2O, and dried (Na2SO4). Solvent is removed under vacuum to give 1.6 g of a yellow solid, m.p. 93°-95° C; Mass spectrum (CI), 378(MH+).

reactant | 10,11-dihydrodibenz[b,f][1,4]oxazepine | 1.0 g | C1=CC=CC2=C1CNC1=C(O2)C=CC=C1 | C13H11NO
reactant | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
reactant | [1,1'-biphenyl]-4-carbonyl chloride | 2.0 g | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 10-([1,1'-Biphenyl]-4-ylcarbonyl)-10,11-dihydrodibenz[b,f][1,4]oxazepine | 1.6 g | C1(=CC=C(C=C1)C(=O)N1C2=C(OC3=C(C1)C=CC=C3)C=CC=C2)C2=CC=CC=C2 | C26H19NO2
